US07585885B2
5-Fluoromethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester
Add bis(2-methoxyethyl)aminosulfur trifluoride (220 mg, 1.0 mmol) to a polypropylene tube (5 mL), seal, cool to −78° C., add a solution of 5-hydroxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester (250 mg, 0.9 mmol) in dichloromethane 1.0 (1 mL) in 0.2 mL increments. Stir at −78° C. for 3 h then at room temperature overnight. Pour the reaction into saturated aqueous sodium bicarbonate. Extract with dichloromethane, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 50:50 ethyl acetate:hexanes) to give the title compound (73 mg, 29%).

reactant | bis(2-methoxyethyl)aminosulfur trifluoride | 1.0 mmol, 220 mg | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | 5-hydroxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 0.9 mmol, 250 mg | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)CO)=O | C15H21NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-Fluoromethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 73 mg, 29% | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)CF)=O | C15H20FNO3
